US07375101B2
3-Azido-7-chloro-1,3-dihydro-1-methyl-5-(3-pyridinyl)-2H-1,4benzodiazepin-2-one
As illustrated in the scheme above and following General Procedure 6, KHMDS (10.5 mL of 0.5 M in toluene, 5.25 mmol), 7-chloro-1,3-dihydro-1-methyl-5-(3-pyridinyl)-2H-1,4-benzodiazepin-2-one (1.43 g, 4.99 mmol), trisyl azide (3.86 g, 12.5 mmol) and acetic acid (1.26 mL, 22.0 mmol) were combined. After workup, purification of the crude product by silica gel column chromatography (1:1 CH2Cl2:EtOAc) provided the title compound as a yellow foam (1.47 g, 90%). 1H-NMR (CDCl3): δ 8.80 (s, 1H), 8.76 (d, J=3.6 Hz, 1H), 8.14 (dt, J=1.6 Hz, J=8.0 Hz, 1H), 7.61 (dd, J=2.0 Hz, J=8.4 Hz, 1H), 7.44 (ddd, J=0.8 Hz, J=4.8 Hz, J=8.0 Hz, 1H), 7.38 (d, J=8.8 Hz, 1H), 7.35 (d, J=2.4 Hz, 1H), 4.56 (s, 1H), 3.48 (s, 3H). MS (ESI) (M+H)+=327.

reactant | KHMDS | 5.25 mmol, 0.5 M, 10.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 7-chloro-1,3-dihydro-1-methyl-5-(3-pyridinyl)-2H-1,4-benzodiazepin-2-one | 4.99 mmol, 1.43 g | ClC=1C=CC2=C(C(=NCC(N2C)=O)C=2C=NC=CC2)C1 | C15H12ClN3O
reactant | trisyl azide | 12.5 mmol, 3.86 g | CC(C)C1=CC(=C(C(=C1)C(C)C)S(=O)(=O)N=[N+]=[N-])C(C)C | C15H23N3O2S
reactant | acetic acid | 22.0 mmol, 1.26 mL | C(C)(=O)O | C2H4O2
product | 3-Azido-7-chloro-1,3-dihydro-1-methyl-5-(3-pyridinyl)-2H-1,4benzodiazepin-2-one | 1.47 g, 90% | N(=[N+]=[N-])C1C(N(C2=C(C(=N1)C=1C=NC=CC1)C=C(C=C2)Cl)C)=O | C15H11ClN6O
